US07449486B2
Step A: Preparation of (4-oxo-4-phenylbutyl)-carbamic acid tert-butyl ester:
To a solution of 2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (7.03 g, 38 mmol) in THF (130 mL) was added phenylmagnesium bromide (1.0 M solution, 50 mL) at −78° C. After stirring for 2 hour at −78° C., HCl (2 M, 35 mL) was added to quench the reaction, which was then warmed to room temperature and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organics were washed with brine (50 mL) and dried over Na2SO4, filtered and concentrated under reduced pressure to afford 9.56 g (96% yield) of the desired product.

reactant | 2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 38 mmol, 7.03 g | C(C)(C)(C)OC(=O)N1C(CCC1)=O | C9H15NO3
reactant | phenylmagnesium bromide | 1.0 M, 50 mL | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | 2 M, 35 mL | Cl | ClH
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | (4-oxo-4-phenylbutyl)-carbamic acid tert-butyl ester | 9.56 g, 96% yield | C(C)(C)(C)OC(NCCCC(C1=CC=CC=C1)=O)=O | C15H21NO3
